Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROSURGERY
 
Allergies: 
clindamycin / codeine / omeprazole / Flagyl
 
Attending: ___.
 
Chief Complaint:
recanulized PCA aneurysm
 
Major Surgical or Invasive Procedure:
___ Pipeline embolization of L PCA aneurysm

 
History of Present Illness:
Ms. ___ is known to Dr. ___ undergoing surgical 
clipping of a left PCA intracranial aneurysm several years ago.  
A recent CTA demonstrated what appears to be recurrence of the 
aneurysm at the base of the lesion.  The lesion was somewhat 
fusiform. The patient then underwent cerebral arteriography 
which confirmed recurrence of a posterior cerebral artery 
aneurysm.  The residual has grown.  
 
Past Medical History:
thyroid cancer
L PCA aneurysm 
GERD

PSHx
Thyroidectomy
L craniotomy of aneurysm clipping
 
Social History:
___
Family History:
non-contributory
 
Physical Exam:
On the day of discharge:
___
The patient was oriented to person/ place/time
the patients pupils were 4-3mm bilaterally
the patients strength was full in the upper and lower 
extremities in all muscle groups
sensation was intact
there was no pronator drift
the right groin was dry/ no hematoma/ no ecchymosis
pedal pulses present on palpation
EON intact face symmetric
speech clear/ fluent
 
Pertinent Results:
Radiology Report CAROTID/CEREBRAL COIL/STENT Study Date of 
___ 11:21 AM 
 
  
IMPRESSION:  
  
Pipeline embolization of left P3/P4 posterior cerebral artery 
fusiform 
aneurysm status post failed clipping procedure. 
  
No thromboembolic complications. 

 
Brief Hospital Course:
Mrs. ___ was taken to the angio suite on the day of admission 
on ___ and underwent a pipeline embolization of a L PCA 
recanalized aneurysm. she tolerated the procedure well and was 
transferred to the PACU as an ICU boarder post-operatively. Her 
diet was advanced as tolerated.

On post operative day one the patient was found to be 
neurologically intact on morning rounds. She reported a mild 
headache which was relived with pain medicine. The patient right 
groin angio site : there was no hematoma/ no ecchymosis/ no 
erythema.  there was scant serosnaguinous drainage and the 
dressing was changed.  There was no active bleeding at the right 
groin site.  pedal pulses were palpable.    The patient was 
voiding on her own.  The patient was out of bed to the chair and 
ambulating independently. The patient was tolerating a regular 
diet.  The patients pain was well controlled.  The patient was 
discharged to home in stable condition.  
 

 
Medications on Admission:
Albuterol
Aspirin
Atenolol
Brilinta
Fluticasone
Levothyroxine
Losartan
Topiramate
Prevacid
 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN fever or pain 
Do not exceed 3000mg daily. 
2. Albuterol Inhaler 2 PUFF IH Q6H:PRN SOB 
3. Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*2
4. Atenolol 50 mg PO DAILY 
5. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 2 capsule(s) by mouth 1 cap 
BID PRN Disp #*60 Capsule Refills:*0
6. Fluticasone Propionate 110mcg 2 PUFF IH BID 
7. Lansoprazole Oral Disintegrating Tab 15 mg PO DAILY 
8. Levothyroxine Sodium 175 mcg PO DAILY 
9. Senna 17.2 mg PO QHS 
RX *sennosides [senna] 8.6 mg 2 tabs by mouth 2 tabs QHS PRN 
Disp #*60 Capsule Refills:*0
10. TiCAGRELOR 90 mg PO BID 
RX *ticagrelor [BRILINTA] 90 mg 1 tablet(s) by mouth twice daily 
Disp #*60 Tablet Refills:*2
11. Topiramate (Topamax) 50 mg PO DAILY 
12. OxycoDONE (Immediate Release)  ___ mg PO Q6H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth Every 6 hours as 
needed Disp #*20 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
L PCA recanalized aneurysm

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Activity
• You may gradually return to your normal activities, but we 
recommend you take it easy for the next ___ hours to avoid 
bleeding from your groin.
• Heavy lifting, running, climbing, or other strenuous exercise 
should be avoided for ten (10) days. This is to prevent bleeding 
from your groin.
• You make take leisurely walks and slowly increase your 
activity at your own pace. ___ try to do too much all at once.
• Do not go swimming or submerge yourself in water for five (5) 
days after your procedure.
• You make take a shower.

Medications
• Resume your normal medications and begin new medications as 
directed.
• You should continue taking your regular dose of Brilinta and 
Aspirin 81mg daily. Do not take any other products that have 
aspirin in them. If you are unsure of what products contain 
Aspirin, ask your pharmacist or call our office.
• You may use Acetaminophen (Tylenol) for minor discomfort if 
you are not otherwise restricted from taking this medication.
• If you take Metformin (Glucophage) you may start it again 
three (3) days after your procedure (___)

Care of the Puncture Site
• You will have a small bandage over the site.
• Remove the bandage in 24 hours by soaking it with water and 
gently peeling it off.
• Keep the site clean with soap and water and dry it carefully.
• You may use a band-aid if you wish.

What You ___ Experience:
• Mild tenderness and bruising at the puncture site (groin).
• Soreness in your arms from the intravenous lines.
• Mild to moderate headaches that last several days to a few 
weeks.
• Fatigue is very normal
• Constipation is common. Be sure to drink plenty of fluids and 
eat a high-fiber diet. If you are taking narcotics (prescription 
pain medications), try an over-the-counter stool softener.

When to Call Your Doctor at ___ for:
• Severe pain, swelling, redness or drainage from the puncture 
site. 
• Fever greater than 101.5 degrees Fahrenheit
• Severe constipation
• Blood in your stool or urine
• Nausea and/or vomiting
• Extreme sleepiness and not being able to stay awake
• Severe headaches not relieved by pain relievers
• Seizures
• Any new problems with your vision or ability to speak
• Weakness or changes in sensation in your face, arms, or leg

 
Followup Instructions:
___